US07888352B2
To a solution of 2-amino-5-bromo-3-methylpyridine (500 mg) in THF (5 mL) was added sodium bis(trimethylsilyl)amide (5.35 mL of a 1 M solution in THF) and the reaction stirred at room temperature for 15 min. Then, di-tert-butyldicarbonate (554 mg) was added and the reaction stirred at room temperature for 16 h. The reaction was quenched with water (30 mL) and extracted into dichloromethane (3×20 mL). The organic layers were washed with brine (2×40 mL), dried (MgSO4), reduced in vacuo and purified on silica to give (5-bromo-3-methyl-pyridin-2-yl)-carbamic acid tert-butyl ester.

reactant | 2-amino-5-bromo-3-methylpyridine | 500 mg | NC1=NC=C(C=C1C)Br | C6H7BrN2
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | di-tert-butyldicarbonate | 554 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (5-bromo-3-methyl-pyridin-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC=C(C=C1C)Br)=O | C11H15BrN2O2
